US05071859
(R)-1-[2-[[2,2-Diphenylethyl]oxy]ethyl]-3-piperidine carboxylic acid
(R)-1-[2-[[2,2-Diphenylethyl]oxy]ethyl]-3-piperidine carboxylic acid hydrochloride (120 mg, 0.31 mmol) was dissolved in methanol (5 ml) and stirred under an atmosphere of hydrogen for 2 h at room temperature in the presence of 5% palladium on carbon catalyst (52% aqueous paste) and then filtered. The filtrate was evaporated to dryness leaving a residue, which was dissolved in water. The aqueous solution was lyophilized to give the title compound (80 mg, 58% of the theoretical yield) as a solid, TLC rf 0.32 (SiO2, methanol).

reactant | (R)-1-[2-[[2,2-Diphenylethyl]oxy]ethyl]-3-piperidine carboxylic acid hydrochloride | 0.31 mmol, 120 mg | Cl.C1(=CC=CC=C1)C(COCCN1C[C@@H](CCC1)C(=O)O)C1=CC=CC=C1
solvent | methanol | 5 ml | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
solvent | water | O | H2O
product | (R)-1-[2-[[2,2-Diphenylethyl]oxy]ethyl]-3-piperidine carboxylic acid | C1(=CC=CC=C1)C(COCCN1C[C@@H](CCC1)C(=O)O)C1=CC=CC=C1 | C22H27NO3
